US04145432
To a mixture of a brown oil (2.46 g) of 2-(N,N-diethylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate in acetone (24.6 ml) was added 6N hydrochloric acid (2.46 ml) and this mixture was stirred for two hours at room temperature. The reaction mixture was adjusted to pH 7 with an aqueous solution of sodium bicarbonate and the acetone was distilled off. The residue was extracted with ethyl acetate, and the extract was washed with water, dried, and concentrated to give an oil (1.81 g) of 2-(N,N-diethylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate.

reactant | 2-(N,N-diethylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 2.46 g | CC=1NC(=C(C(C1C(=O)OCCN(CC)CC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C27H39N3O8
reactant | hydrochloric acid | 6N, 2.46 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 24.6 ml | CC(=O)C | C3H6O
product | 2-(N,N-diethylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 1.81 g | CC=1NC(=C(C(C1C(=O)OCCN(CC)CC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C23H29N3O7
